US03959322
Add dl-13-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10),8-tetraene (11.0 g) in tetrahydrofuran (160 ml) to liquid ammonia (600 ml) containing tetrahydrofuran (170 ml) and aniline (30 ml). Then add lithium (0.6 g) in small portions and stir for 2 hours. Work up in the usual way to obtain dl-13-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10)-triene as a gum (9.5 g) that will crystallize on scratching. Recrystallize from isopropanol to obtain a product with m.p. 130°-134°; ultraviolet absorption peak at 280 mμ (ε1,976), no infrared absorption in the ketone region.

reactant | 13-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10),8-tetraene | 11.0 g | C(C)[C@]12C3(CC[C@H]2C2=C(CC1)C=1C=CC(=CC1C(C2)C)OC)OCCO3 | C23H30O3
reactant | ammonia | 600 ml | N | H3N
reactant | aniline | 30 ml | NC1=CC=CC=C1 | C6H7N
reactant | lithium | 0.6 g | [Li] | Li
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
product | 13-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10)-triene | 9.5 g | C(C)[C@]12C3(CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1C(C2)C)OC)OCCO3 | C23H32O3
